US04400509
Trimethylsilyl 3-acetoxymethyl-7-amino-3-cephem-4-carboxylate
0.63 ml (3.0 mmoles) of hexamethyldisilazane were added to a refluxing suspension of 0.82 g (3.0 mmoles) of 3-acetoxymethyl-7-amino-3-cephem-4-carboxylic acid in 15 ml of dichloromethane and 11 mg of saccharin (0.06 mmole) and a clear solution, indicating that the chloroform-insoluble carboxylic acid was converted into the soluble trimethylsilyl ester, was obtained after refluxing for 10 minutes. The same experiment without the addition of saccharin was also carried out and refluxing had to be continued for 50 minutes to obtain a clear solution.

reactant | hexamethyldisilazane | 3.0 mmoles, 0.63 ml | C[Si](N[Si](C)(C)C)(C)C | C6H19NSi2
reactant | 3-acetoxymethyl-7-amino-3-cephem-4-carboxylic acid | 3.0 mmoles, 0.82 g | C(C)(=O)OCC=1CS[C@H]2N(C1C(=O)O)C(C2N)=O | C10H12N2O5S
reactant | saccharin | 0.06 mmole, 11 mg | S1(=O)(=O)NC(=O)C2=CC=CC=C12 | C7H5NO3S
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
product | Trimethylsilyl 3-acetoxymethyl-7-amino-3-cephem-4-carboxylate | C(C)(=O)OCC=1CS[C@H]2N(C1C(=O)O[Si](C)(C)C)C(C2N)=O | C13H20N2O5SSi
